US04713452
A 268 mg quantity of 3,4,5-trimethoxy-2,6-dichlorobenzyl 2-[3-phenoxyacetamido-4-(4-methylbenzothiazol-2-yldithio)-2-azetidinon-1-yl]-3-methyl-3-butenoate and 69 mg of benzenesulfonyl cyanide were dissolved in 3 ml of acetone. To the solution was added 3 mg of sodium benzenesulfinate and the mixture was reacted at room temperature for 2 hours. The same subsequent procedure as in Example 5 was followed, producing 3,4,5-trimethoxy-2,6 dichlorobenzyl 2-(3-phenoxyacetamido-4-benzenesulfonylthio-2-azetidinon-1-yl)-3-methyl-3-butenoate in a yield of 85%. The NMR spectrum data of the compound thus obtained were identical with those of the desired compound. The NMR spectrum data are shown below in Table 2.

reactant | 3,4,5-trimethoxy-2,6-dichlorobenzyl 2-[3-phenoxyacetamido-4-(4-methylbenzothiazol-2-yldithio)-2-azetidinon-1-yl]-3-methyl-3-butenoate | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1SSC=1SC2=C(N1)C(=CC=C2)C)C(C(=O)OCC2=C(C(=C(C(=C2Cl)OC)OC)OC)Cl)C(=C)C)=O | C34H33Cl2N3O8S3
reactant | benzenesulfonyl cyanide | 69 mg | C1(=CC=CC=C1)S(=O)(=O)C#N | C7H5NO2S
reactant | sodium benzenesulfinate | 3 mg | C1(=CC=CC=C1)S(=O)[O-].[Na+]
solvent | acetone | 3 ml | CC(=O)C | C3H6O
product | 3,4,5-trimethoxy-2,6 dichlorobenzyl 2-(3-phenoxyacetamido-4-benzenesulfonylthio-2-azetidinon-1-yl)-3-methyl-3-butenoate | yield of 85% | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1SS(=O)(=O)C1=CC=CC=C1)C(C(=O)OCC1=C(C(=C(C(=C1Cl)OC)OC)OC)Cl)C(=C)C)=O | C32H32Cl2N2O10S2
